US07091215B2
N-Cyclopropylmethyl-N-[2-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-2H-4-pyranylmethylamine
After dissolving N-cyclopropylmethyl-N-[2-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-yl]amine (134 mg) in tetrahydrofuran (10 mL), tetrahydro-2H-4-pyrancarbaldehyde (131 mg) and sodium triacetoxyborohydride (243 mg) were added, and the mixture was stirred at room temperature for 1 hour. Saturated aqueous sodium hydrogencarbonate was added to the obtained reaction mixture, extraction was performed with ethyl acetate, and the extract was washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (120 mg) was obtained from the n-hexane:ethyl acetate (4:1) fraction as a yellow amorphous.

reactant | N-cyclopropylmethyl-N-[2-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 134 mg | C1(CC1)CNC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)OC | C21H25N3O2
reactant | tetrahydro-2H-4-pyrancarbaldehyde | 131 mg | O1CCC(CC1)C=O | C6H10O2
reactant | sodium triacetoxyborohydride | 243 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropylmethyl-N-[2-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-2H-4-pyranylmethylamine | 120 mg | C1(CC1)CN(CC1CCOCC1)C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)OC | C27H35N3O3
